US07132425B2
A solution of N-(5-acetyl-pyrazin-2-yl)-2,2-dimethyl-propionamide (800.0 mg, 3.62 mmol) in methanol (9 mL) and pyridine (9 mL) was treated with O-(tert-butyl)hydroxylamine hydrochloride (681.1 mg, 5.42 mmol). The resulting reaction mixture was heated under reflux for 30 min. The reaction mixture was allowed to cool to 25° C. and then was concentrated in vacuo. The resulting residue was diluted with ethyl acetate (50 mL). The organic layer was washed with a 1N aqueous hydrochloric acid solution (1×50 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 1/9 ethyl acetate/hexanes) afforded N-[5-(1-tert-butoxyimino-ethyl)-pyrazin-2-yl]-2,2-dimethyl-propionamide (1.04 g, 98%) as a white solid: mp 123–124° C.; EI-HRMS m/e calcd for C15H24N4O2 (M+) 292.1899, found 292.1901.

reactant | N-(5-acetyl-pyrazin-2-yl)-2,2-dimethyl-propionamide | 3.62 mmol, 800.0 mg | C(C)(=O)C=1N=CC(=NC1)NC(C(C)(C)C)=O | C11H15N3O2
reactant | O-(tert-butyl)hydroxylamine hydrochloride | 5.42 mmol, 681.1 mg | Cl.C(C)(C)(C)ON
solvent | methanol | 9 mL | CO | CH4O
solvent | pyridine | 9 mL | N1=CC=CC=C1 | C5H5N
product | N-[5-(1-tert-butoxyimino-ethyl)-pyrazin-2-yl]-2,2-dimethyl-propionamide | 1.04 g, 98% | C(C)(C)(C)ON=C(C)C=1N=CC(=NC1)NC(C(C)(C)C)=O | C15H24N4O2
